US07659429B2
A mixture Of Cs2CO3 (794 g, 2.7 mol), dimethoxyethane (2 l), water (300 ml) and trimethylboroxine (50 percent solution in THF, 225 g. 0.9 mol) was heated to 70° C., PdCl2 (dppf)×CH2Cl2 (37 g. 45 μmmol) was added, and a solution of 4-amino-3-bromophenylsulfur pentafluoride (270 g., 0.9 mol) in dimethoxyethane (400 ml) was added dropwise over the course of 2 h while the reaction mixture was heated to reflux. It was subsequently heated under reflux for a further 3 h and then cooled to room temperature, diluted with MTB ether (500 ml), filtered through a silica gel column (14×7 cm, 70-200 μm) and washed with MTB ether (2500 ml). The filtrate was evaporated in vacuo. 490 g of a black, semicrystalline mass was obtained and was subjected to a steam distillation. A total of 5.5 l of condensate was collected, from which the crystals of the product separated out. The condensate was extracted 3× with MTB ether, and the combined organic phases were dried over Na2SO4 and evaporated in vacuo. 4-Amino-3-methylphenylsulfur pentafluoride (181 g. 76%) was obtained as colorless crystals, m.p. 65-66° C.

reactant | Cs2CO3 | 2.7 mol, 794 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 300 ml | O | H2O
reactant | trimethylboroxine | 0.9 mol, 225 g | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | 4-amino-3-bromophenylsulfur pentafluoride | 0.9 mol, 270 g | NC1=C(C=C(C=C1)S(F)(F)(F)(F)F)Br | C6H5BrF5NS
solvent | dimethoxyethane | 400 ml | C(OC)COC | C4H10O2
solvent | ether | 500 ml | CCOCC | C4H10O
catalyst | PdCl2 | Cl[Pd]Cl
solvent | dimethoxyethane | 2 l | C(OC)COC | C4H10O2
solvent | CH2Cl2 | 37 g | C(Cl)Cl | CH2Cl2
product | 4-Amino-3-methylphenylsulfur pentafluoride | 181 g, 76% | NC1=C(C=C(C=C1)S(F)(F)(F)(F)F)C | C7H8F5NS
